US06043248
4-Chlorocrotonyl chloride (1.02 g, 7.35 mmol) in ether (10 ml) is combined with dipropylamine (1.64 g, 16.17 mmol) in ether (5 ml) at -15° C. in a flame dried flask. The reaction is warmed to ambient temperature, stirred for 1 to 2 hours, quenched with water (30 ml), extracted with ethyl acetate (2×30 ml), washed with saline (30 ml), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with hexane/ethyl acetate (60/40). The appropriate fractions are combined (Rf =0.53, TLC, hexane/ethyl acetate, 25/75) and concentrated in vacuo to give 4-chloro-N,N-dipropylcrotonamide. 4-Amino-6-chloro-2-mercaptopyrimidine mesylate (0.30 g, 1.16 mmol) is dissolved in DMF (5 ml) and sodium hydride (0.06 g, 2.55 mmol) at ambient temperature followed by the addition of 4-chloro-N,N-dipropylcrotonamide (0.23 g, 1.13 mmol). The reaction is stirred for 2 to 15 hours, quenched with excess water, extracted with ethyl acetate (3×20 ml). The extracts are combined, washed with saline (20 ml), dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with hexane/ethyl acetate (60/40). The appropriate fractions are combined (Rf =0.40, TLC, hexane/ethyl acetate, 25/75) and concentrated in vacuo to give the title compound, mp 139-142° C.

reactant | 4-Chlorocrotonyl chloride | 7.35 mmol, 1.02 g | ClC/C=C/C(=O)Cl | C4H4Cl2O
reactant | dipropylamine | 16.17 mmol, 1.64 g | C(CC)NCCC | C6H15N
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4-chloro-N,N-dipropylcrotonamide | ClC/C=C/C(=O)N(CCC)CCC | C10H18ClNO
